US08791255B2
0.640 ml of a 2M solution of trimethylaluminium in toluene, and then, after stirring for 40 minutes at ambient temperature, a solution of 190 mg of ethyl [1-ethyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate in 6 ml of toluene are successively added, dropwise, to a solution of 0.13 ml of 4-fluoroaniline in 4 ml of toluene. The reaction mixture is heated at 80° C. for 4 hours, cooled using an ice bath and run into water. A 1M solution of potassium sulphate and ethyl acetate are then added, and the organic phase is extracted, washed again with a 1M solution of potassium phosphate and then dried over magnesium phosphate, filtered and, finally, concentrated under reduced pressure. After purification by silica column chromatography, eluent: 98/01/01 then 96/02/02 CH2Cl2/CH3CN/MeOH, 60 mg of 2-[1-ethyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(4-fluorophenyl)acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl [1-ethyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 190 mg | C(C)N1C(=NC(=CC1=O)N1CCOCC1)CC(=O)OCC | C14H21N3O4
reactant | 4-fluoroaniline | 0.13 ml | FC1=CC=C(N)C=C1 | C6H6FN
reactant | potassium sulphate | S(=O)(=O)([O-])[O-].[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-[1-ethyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]-N-(4-fluorophenyl)acetamide | 60 mg | C(C)N1C(=NC(=CC1=O)N1CCOCC1)CC(=O)NC1=CC=C(C=C1)F | C18H21FN4O3
